US06703182B1
Benzoic acid 1-cyano-3-(4-methoxy-phenyl)-allyl ester (15 g; ca 0.050 mol) is dissolved in 100 ml of anhydrous tetrahydrofuran. Tetrakis(triphenylphosphine)palladium (0.88 g; 0.8 mmol) and 4.8 ml of poly(methylhydrosiloxane) (ca 80 meq; Aldrich) are added, and the mixture is stirred at ca 20° C., cooling with a cold water bath. After 3 h 30 min, the mixture is concentrated by rotary evaporation, stirred with 150 ml of water to hydrolyze the siloxane. The polymer and organic materials are redissolved in CH2Cl2 and washed with saturated sodium bicarbonate to remove benzoic acid. Evaporation of the solvent and flash chromatography (150 g SiO2; hexane:ethyl acetate 80:20 v:v) affords 4.9 g (57%) of pure 4-(4-methoxy-phenyl)-but-3-enenitrile, mp 75-76° C.

reactant | Benzoic acid 1-cyano-3-(4-methoxy-phenyl)-allyl ester | ca 0.050 mol, 15 g | C(#N)C(C=CC1=CC=C(C=C1)OC)OC(C1=CC=CC=C1)=O | C18H15NO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.8 mmol, 0.88 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-methoxy-phenyl)-but-3-enenitrile | 4.9 g, 57% | COC1=CC=C(C=C1)C=CCC#N | C11H11NO
